US07259183B2
Preparation of butyl-(4-tert-butyl-benzyl)-amine
0.5 ml of 4-tert-butylbenzaldehyde (3 mmol) and 0.20 ml of butylamine (2 mmol) were dissolved in 5 ml methanol at rt and then refluxed for 17 h. After cooling down to rt, 113 mg (3 mmol) of sodium borohydride were added and the reaction mixture was then refluxed for 3 h. After cooling down to rt, the reaction mixture was treated with 4 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:1) to give 334 mg colorless oil (51%). MS (ISP) 220.4 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 3 mmol, 0.5 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | butylamine | 2 mmol, 0.20 ml | C(CCC)N | C4H11N
reactant | sodium borohydride | 3 mmol, 113 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | HCl | 1 N, 4 drops | Cl | ClH
product | butyl-(4-tert-butyl-benzyl)-amine | 334 mg, 51% | C(CCC)NCC1=CC=C(C=C1)C(C)(C)C | C15H25N
